US08217051B2
In a manner similar to the method described in Example 3, 2-methacrolein (0.81 g, 10.5 mmol) (Acros) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (2.18 mL, 10.5 mmol), n-butyllithium (2.5 M, 4.2 mL, 10.5 mmol), trimethylsilyl chloride (1.33 mL, 10.5 mmol), triethylamine (1.89 mL, 14 mmol) and chloroacetyl chloride (1.09 mL, 14 mmol) to give crude 4-chloro-1-isopropenyl-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 10.5 mmol, 2.18 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 10.5 mmol, 2.5 M, 4.2 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 10.5 mmol, 1.33 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 14 mmol, 1.89 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 14 mmol, 1.09 mL | ClCC(=O)Cl | C2H2Cl2O
product | 4-chloro-1-isopropenyl-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC=C(N=CC(=C)C)O[Si](C)(C)C | C9H16ClNOSi
